US07687627B2
(S)-N-{3-[4-(4-(1-Imidazolylmethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The compound was obtained by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.40 mmol), BF3 etherate (catalytic) and imidazole (1.80 mmol) in dimethylformamide (10 ml) at 80° C. for 8 hours, followed by silica gel column chromatographic separation to provide title compound in 66% yield. M.P. 130-132° C. and MS (M+1)=432 (MH+, 100%) for M.F.=C21H26FN5O4.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.40 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | BF3 | B(F)(F)F | BF3
reactant | imidazole | 1.80 mmol | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-N-{3-[4-(4-(1-Imidazolylmethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 66% yield | N1C(=NC=C1)CC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C21H26FN5O4
